US05326692
Preparation of Novel Microparticles Using Two Coumarin Dyes
To a vigorously stirred 200 mL suspension 0.282 micrometer carboxylate-modified latex (Interfacial Dynamics Corp., Portland, Oreg.; 2.75% solids in 50% v/v distilled water/methanol) is added a solution of 30 mg of Coumarin 138 (Eastman Kodak, Rochester, N.Y.) and 30 mg of Coumarin 314 (Eastman Kodak) dissolved in a homogeneous mixture of 7.5 mL of dichloromethane and 17.5 mL of absolute ethanol. The addition of the dye and purification of the product is carried out as described in EXAMPLE 3. Visual analysis of a dilute aqueous suspension of the product by fluorescence microscopy using standard AMCA excitation and emission filters shows uniformly dyed particles that are highly monodisperse. Spectral analysis of the product, exciting at 360 nm shows an emission peak centered at 410 nm and an emission peak centered at 460 nm. The integrated ratio of the 460 nm peak (from coumarin 314) to the 410 peak (from coumarin 138) is 92:8, indicating efficient transfer of emission energy from coumarin 138 to coumarin 314.

reactant | water methanol | O.CO
reactant | Coumarin 138 | 30 mg | CN(C)C1=CC2=C(C=C1)C3=C(CCC3)C(=O)O2 | C14H15NO2
reactant | Coumarin 314 | 30 mg | CCOC(=O)C1=CC2=CC3=C4C(=C2OC1=O)CCCN4CCC3 | C18H19NO4
reactant | AMCA | C1CC(CCC1CN)C(=O)O | C8H15NO2
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
solvent | ethanol | 17.5 mL | C(C)O | C2H6O
product | Coumarin | O1C(=O)C=CC2=CC=CC=C12 | C9H6O2
